US04059433
A mixture of 3.8 g of 1,1-dimethyl-3-(4-cyano-3-ethoxy-5-isothiazolyl)urea in 7 ml of concentrated sulfuric acid was treated as described in Example II to give 3.5 g of 1,1-dimethyl-3-(4-carbamoyl-3-ethoxy-5-isothiazolyl)urea, m.p. 172°-172°. The nmr spectrum was consistent with the assigned structure.

reactant | 1,1-dimethyl-3-(4-cyano-3-ethoxy-5-isothiazolyl)urea | 3.8 g | CN(C(=O)NC1=C(C(=NS1)OCC)C#N)C | C9H12N4O2S
reactant | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
product | 1,1-dimethyl-3-(4-carbamoyl-3-ethoxy-5-isothiazolyl)urea | 3.5 g | CN(C(=O)NC1=C(C(=NS1)OCC)C(N)=O)C | C9H14N4O3S
